US07538123B2
(1) 3,4-Dihydro-7-methoxy-8-(2-propenyl)-1(2H)-naphthalenone
160 mg of 3,4-dihydro-7-hydroxy-8-(2-propenyl)-1(2H)-naphthalenone (CAS No. 122076-30-6), 140 mg of iodomethane, and 400 mg of potassium carbonate were dissolved in 15 ml of acetone. The reaction solution was then stirred at 70° C. for 1.5 hours. The mixture was filtered and then washed with acetone. The organic layer was then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography, so that 140 mg of the subject compound was obtained from an ethyl acetate-hexane eluate (1:10).

reactant | 3,4-dihydro-7-hydroxy-8-(2-propenyl)-1(2H)-naphthalenone | 160 mg | OC1=CC=C2CCCC(C2=C1CC=C)=O | C13H14O2
reactant | iodomethane | 140 mg | IC | CH3I
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3,4-Dihydro-7-methoxy-8-(2-propenyl)-1(2H)-naphthalenone | COC1=CC=C2CCCC(C2=C1CC=C)=O | C14H16O2
